### PR TITLE
[Merged by Bors] - feat: exactness of short complexes in concrete categories

### PR DESCRIPTION
**Pull request by joelriou**
---
- [x] depends on: #8058

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Algebra/Homology/ShortComplex/ConcreteCategory.lean [hunk 1]
```diff
@@ -0,0 +1,77 @@
...
+lemma ShortComplex.zero_apply
+    [Limits.HasZeroMorphisms C] [(forget₂ C Ab).PreservesZeroMorphisms]
+    (S : ShortComplex C) (x : (forget₂ C Ab).obj S.X₁) :
+    ((forget₂ C Ab).map S.g) (((forget₂ C Ab).map S.f) x) = 0 := by
+  erw [← comp_apply, ← Functor.map_comp, S.zero, Functor.map_zero]
+  rfl
+
+section abelian
+
+variable [Abelian C] [(forget₂ C Ab).Additive] [(forget₂ C Ab).PreservesHomology]
```
Comment (jcommelin) [inline Mathlib/Algebra/Homology/ShortComplex/ConcreteCategory.lean:31]: Do you need the full force of abelian categories here?

Comment (joelriou) [reply Mathlib/Algebra/Homology/ShortComplex/ConcreteCategory.lean]: Thanks for the suggestion! Indeed, `[Preadditive C]` and `[HasZeroObject C]` are sufficient here.

**Review by jcommelin — APPROVED** [review]
Thanks :tada:

bors merge
